US04594430
A solution of 1.5 g (14.5 mmoles) of 3-nitrooxetane and 0.87 g (22 mmoles) of sodium hydroxide in 10 mL of water was stirred for 10 minute and 10 mL of methylene chloride was added. Then, a solution of 4.0 g (58 mmoles) of sodium nitrite in 10 mL of water was added, followed by 3.5 g of solid sodium persulfate and a solution of 0.96 g (2.9 mmoles) of potassium ferricyanide in 5 mL of water. A cold water bath was used to moderate the slightly exothermic reaction. After 30 minutes, the phases were separated and the aqueous layer extracted with two 30 mL portions of ether. The combined etheral extracts were washed with brine, dried and concentrated. Care was taken not to lose the very volatile product in this concentration step. The crude material was purified by sublimation at 120°-140° C. at atmospheric pressure to give 1.6 g (75% yield) of 3.3-dinitrooxetane, m.p. 70°-71° C. Its IR was identical with that of an authentic sample. 'H NMR (CDCl3): & 5.20 (s, 4 H).

reactant | 3-nitrooxetane | 14.5 mmoles, 1.5 g | [N+](=O)([O-])C1COC1 | C3H5NO3
reactant | sodium hydroxide | 22 mmoles, 0.87 g | [OH-].[Na+]
reactant | sodium nitrite | 58 mmoles, 4.0 g | N(=O)[O-].[Na+]
reactant | sodium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[Na+].[Na+]
solvent | water | 10 mL | O | H2O
solvent | water | 10 mL | O | H2O
solvent | water | 5 mL | O | H2O
catalyst | potassium ferricyanide | 2.9 mmoles, 0.96 g | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 3.3-dinitrooxetane | 1.6 g, 75% yield | [N+](=O)([O-])C1(COC1)[N+](=O)[O-] | C3H4N2O5
